US07402598B2
iii) 3-[4-({6-[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]phenyl}ethyl)amino]hexyl}oxy)butyl]benzenesulfonamide formate
A stirred solution of 1-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide (65 mg), diisopropylethylamine (0.06 ml) and 3-{4-[(6-bromohexyl)oxy]butyl}benzenesulfonamide (86 mg) in N,N-dimethylformamide (1 ml) under nitrogen was heated to 50° for 48 h. The mixture was cooled to 20°, the solvent evaporated in vacuo and the residue purified by mass-directed autopreparative HPLC to give the title compound (12 mg). LCMS RT=2.31 min ES+ve 558 (MH)+.

reactant | 1-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide | 65 mg | NC[C@H](O)C=1C=CC(=C(C1)CS(=O)(=O)N)O | C9H14N2O4S
reactant | diisopropylethylamine | 0.06 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-{4-[(6-bromohexyl)oxy]butyl}benzenesulfonamide | 86 mg | BrCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N | C16H26BrNO3S
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-[4-({6-[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]phenyl}ethyl)amino]hexyl}oxy)butyl]benzenesulfonamide formate | 12 mg | C(=O)O.O[C@@H](CNCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N)C1=CC(=C(C=C1)O)NS(=O)(=O)C | InChI=1S/C25H39N3O7S2.CH2O2/c1-36(31,32)28-23-18-21(12-13-24(23)29)25(30)19-27-14-5-2-3-6-15-35-16-7-4-9-20-10-8-11-22(17-20)37(26,33)34;2-1-3/h8,10-13,17-18,25,27-30H,2-7,9,14-16,19H2,1H3,(H2,26,33,34);1H,(H,2,3)/t25-;/m0./s1
